US05891882
2-Chloro-3-cyano-pyrazine-4-oxide
2-Chloro-3-cyanopyrazine (5.00 g, 35.94 mmol) was dissolved in 35 ml concentrated H2SO4 under nitrogen and cooled to 0° C. To this was added 11.65 g (43.95 mmol) K2S2O8 portionwise. The flask was fitted with a CaCl2 drying tube, the reaction mixture allowed to warm to rt and stir for 24 h. After partitioning between CHCl3 and ice water, the separated aqueous phase was extracted with CHCl3. The combined organics were washed with water, saturated NaHCO3, brine and dried over MgSO4. Concentration gave 2.01 g (36%) of the title compound as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 8.12 (d, 1H), 8.38 (d, 1H). MS (DCI/NH3) m/e 173 (M+NH4)+.

reactant | 2-Chloro-3-cyanopyrazine | 35.94 mmol, 5.00 g | ClC1=NC=CN=C1C#N | C5H2ClN3
reactant | H2SO4 | 35 ml | OS(=O)(=O)O | H2O4S
product | 2-Chloro-3-cyano-pyrazine-4-oxide | 2.01 g, 36% | ClC1=NC=C[N+](=C1C#N)[O-] | C5H2ClN3O
